* source I-COMPARADOR-01
M_M1         NDNEG IN- NDBIAS 0 CMOSN  
+ L=10u  
+ W=200u         
M_M2         NDPOS IN+ NDBIAS 0 CMOSN  
+ L=10u  
+ W=200u         
V_VDD         N64870 0 3.3
M_M10         ND2 ND1 N64870 N64870 CMOSP  
+ L=1u  
+ W=4.306u         
M_M3         NDNEG NDNEG N64870 N64870 CMOSP  
+ L=12u  
+ W=18u         
V_VBIAS         VBIAS 0 .33
M_M8         ND2 ND1 0 0 CMOSN  
+ L=1u  
+ W=1u         
M_M12         ND1 NDPOS N64870 N64870 CMOSP  
+ L=5u  
+ W=366u         
M_M4         NDPOS NDNEG N64870 N64870 CMOSP  
+ L=12u  
+ W=18u         
V_VREF         IN+ 0 1
M_M11         NDOUT ND2 N64870 N64870 CMOSP  
+ L=1u  
+ W=4.306u         
M_M13         ND1 VBIAS 0 0 CMOSN  
+ L=5u  
+ W=125u         
M_M5         NDBIAS VBIAS 0 0 CMOSN  
+ L=.2u  
+ W=.2u         
V_VIN         IN- 0 1
M_M9         NDOUT ND2 0 0 CMOSN  
+ L=1u  
+ W=1u         
